* C:\Users\konta\Desktop\LightAlarm\External Light\LED dimmer using MOSFET PWM.asc
MOSFET1 N003 N004 0 0 IRF510
Vcc N001 0 12
R1 N001 N002 50
V§Arduino-PWM N004 0 PULSE(0 5 0 0 0 0.075 0.1)
Rg 0 N004 10k
D§LED N002 N003 LUW-W5AP
.model D D
.lib C:\Users\konta\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\konta\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
* R1 determines current through LED\n \nCould use multiple LEDs in series
.backanno
.end
